US07538239B2
2-(2,3,5-trimethylcyclopenta-1,4-dienyl)-4,6-dimethylphenyl(trimethylacetyl)-amine
The same experiment as in Example 49 was performed using 0.600 g (2.64 mmol) of 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)-4,6-dimethylphenylamine, 0.321 g (3.17 mmol) of triethylamine, and 0.382 g (3.17 mmol) of pivaloyl chloride (0.727 g, 89%).

reactant | 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)-4,6-dimethylphenylamine | 2.64 mmol, 0.600 g | CC1=C(C(=CC1C)C)C1=C(C(=CC(=C1)C)C)N | C16H21N
reactant | triethylamine | 3.17 mmol, 0.321 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 3.17 mmol, 0.382 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2-(2,3,5-trimethylcyclopenta-1,4-dienyl)-4,6-dimethylphenyl(trimethylacetyl)-amine | CC1=C(C(=CC1C)C)C1=C(C(=CC(=C1)C)C)NC(C(C)(C)C)=O | C21H29NO
